US05296478
1,3-dihydro-3-hydroxy-1-(1-piperidinyl)-3-(4-pyridinyl methyl)-2H-indol-2-one
1,3-dihydro-1-(1-piperidinyl)-3-(4-pyridinyl methyl)-2H-indol-2-one could be reacted with sodium hydride and oxygen as reported in Example 22. After column chromatography, the product was recrystallized from hexane-chloroform to give the product as a brown solid, m.p. 156°-158° C. in 25% yield. High Res. Mass Spec. Calcd. for C19H21N3O2 : 324.1712(M+H). Found: 324.1709.

reactant | 1,3-dihydro-1-(1-piperidinyl)-3-(4-pyridinyl methyl)-2H-indol-2-one | N1(CCCCC1)N1C(C(C2=CC=CC=C12)CC1=CC=NC=C1)=O | C19H21N3O
reactant | sodium hydride | [H-].[Na+]
reactant | oxygen | O=O | O2
product | 1,3-dihydro-3-hydroxy-1-(1-piperidinyl)-3-(4-pyridinyl methyl)-2H-indol-2-one | 25% yield | OC1(C(N(C2=CC=CC=C12)N1CCCCC1)=O)CC1=CC=NC=C1 | C19H21N3O2
